US09056859B2
Step G: 2-(4-Methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)propanal
5-(2-Hydroxy-1-methylethyl)-4-methyl-2-benzofuran-1(3H)-one (161 mg, 0.781 mmol, 1.0 eq) was dissolved in DCM (6 mL). To above solution was added Dess-MartinPeriodinane (397 mg, 0.937 mmol, 1.2 eq). The reaction was stirred at rt for 2 hr. To the reaction was added DCM (10 mL), Na2S2O3 (6 mL) and H2O (6 mL). The mixture was stirred at r.t. for 30 minutes and formed two layers. The bottom layer was separated and washed with aqueous NaHCO3, brine and water, dried over Na2SO4, filtered, and concentrated to dryness. The crude product was used to next step without purification. 1H NMR (500 MHz, CDCl3, δ in ppm): 9.70 (1H, s, CHO), 7.79 (1H, d, J=7.8 Hz), 7.28 (1H, d, J=7.8 Hz), 5.28 (2H, s), 3.27 (1H, m), 2.32 (3H, s), 1.50 (3H, d, J=7.2 Hz).

reactant | 5-(2-Hydroxy-1-methylethyl)-4-methyl-2-benzofuran-1(3H)-one | 0.781 mmol, 161 mg, 1.0 eq | OCC(C)C1=C(C2=C(C(OC2)=O)C=C1)C | C12H14O3
reactant | Dess-MartinPeriodinane | 0.937 mmol, 397 mg, 1.2 eq | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | 6 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | H2O | 6 mL | O | H2O
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)propanal | CC1=C(C=CC=2C(OCC21)=O)C(C=O)C | C12H12O3
